US07399759B2
N-[2-[2-(4-Oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]ethyl]benzamide
2-[4-(2-Aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (0.50 g, 1.2 mmol) was dissolved in N,N-dimethylacetamide (10 ml), and benzoyl chloride (0.36 g, 2.6 mmol) and potassium carbonate (0.17 g, 1.2 mmol) were added thereto. The reaction mixture was stirred at 60° C. for 5 hrs, combined with ethyl acetate and water. The organic layer was successively washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with methanol-ethyl acetate (1:20, v/v) were collected, concentrated and recrystallized from hexane-chloroform to give the titled compound (0.17 g, 36%) as white crystals.

reactant | 2-[4-(2-Aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 1.2 mmol, 0.50 g | FC(C(=O)O)(F)F.NCCC1=CC(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | benzoyl chloride | 2.6 mmol, 0.36 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | potassium carbonate | 1.2 mmol, 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-[2-[2-(4-Oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]ethyl]benzamide | 0.17 g, 36% | O=C1N=C(SC2=C1C=CC=C2)C2=NC=CC(=C2)CCNC(C2=CC=CC=C2)=O | C22H17N3O2S
